US04076838
6,7-dihydro-7-methyl-5H-benzocycloheptene-2-acetic acid
6,7,8,9-tetrahydro-7-methyl-9-oxo-5H-benzocycloheptene-2-acetic acid (6.3 g) is dissolved in 90 cc of methanol, and 4.1 g of sodium borohydride are added in small portions within 10 minutes while stirring at room temperature. The solution is stirred for a further 30 minutes, is diluted with water, acidified with 1 N hydrochloric acid, and the crude 6,7,8,9-tetrahydro-9-hydroxy-7-methyl-5H-benzocycloheptene-2-acetic acid is filtered off. The crude product has a M.P. of 161°-163°.

reactant | 6,7,8,9-tetrahydro-7-methyl-9-oxo-5H-benzocycloheptene-2-acetic acid | 6.3 g | CC1CCC2=C(C(C1)=O)C=C(C=C2)CC(=O)O | C14H16O3
reactant | sodium borohydride | 4.1 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 90 cc | CO | CH4O
solvent | water | O | H2O
product | 6,7-dihydro-7-methyl-5H-benzocycloheptene-2-acetic acid | CC1CCC2=C(C=C1)C=C(C=C2)CC(=O)O | C14H16O2
